US07893056B2
A mixture of (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (268 mg, 0.88 mmol), 2-chloro-5-fluoro-6-hydrazino-N-(1-methylethyl)-4-pyrimidinamine (assumed 253 mg of free base, 0.97 mmol), EDC (186 mg, 0.97 mmol), HOAt (132 mg, 0.97 mmol), and NMM (0.64 mL, 5.82 mmol) in DMF was stirred at room temperature overnight. The reaction mixture was then purified via reverse phase HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (74 mg, 17%). LCMS: (M+H)+: 507.1.

reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.88 mmol, 268 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | 2-chloro-5-fluoro-6-hydrazino-N-(1-methylethyl)-4-pyrimidinamine | 0.97 mmol, 253 mg | ClC1=NC(=C(C(=N1)NC(C)C)F)NN | C7H11ClFN5
reactant | EDC | 0.97 mmol, 186 mg
reactant | HOAt | 0.97 mmol, 132 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 5.82 mmol, 0.64 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 74 mg, 17% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)NC(C)C | C24H32ClFN6O3
